US05990161
A mixture of N-benzyloxythiopropionamide (1.2 g, 6 mmol) prepared as above, 2-bromomethylphenyl-3-methoxypropenoate (1.7 g, 6 mmol) and potassium carbonate (1 g, 7 mmol) was stirred overnight at room temperature. The reaction mixture was filtered, the solvent was removed by evaporation, and the residue was purified with silica gel chromatography to obtain methyl 2-[2-{(1-benzyloxyiminopropyl)thiomethyl}phenyl]-3-methoxypropenoate (1.6 g, yield: 67%). The proton NMR Spectra: 1.12 t (3H); 2.36 q (2H); 3.67 s (3H); 3.77 s (3H); 3.95 s (2H); 5.12 s (2H); 7.15-7.50 m (9H); 7.59 s (1H) (Solvent: CDCl3).

reactant | N-benzyloxythiopropionamide | 6 mmol, 1.2 g | C(C1=CC=CC=C1)ONC(CC)=S | C10H13NOS
reactant | 2-bromomethylphenyl-3-methoxypropenoate | 6 mmol, 1.7 g | BrCC1=C(C=CC=C1)C(C(=O)[O-])=COC
reactant | potassium carbonate | 7 mmol, 1 g | C([O-])([O-])=O.[K+].[K+]
product | methyl 2-[2-{(1-benzyloxyiminopropyl)thiomethyl}phenyl]-3-methoxypropenoate | 1.6 g, yield: 67% | C(C1=CC=CC=C1)ON=C(CC)SCC1=C(C=CC=C1)C(C(=O)OC)=COC | C22H25NO4S
